****************************************
*													*
*			SERIES.CIR							*
*********1 Series X 10 Parallel*************
.include cell_2.lib
.option temp=30
**********First Column************
xcell_01_02 0 01 0201 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
virrad_01_02  0201  0 dc 900

**********Secondd Column************
xcell_01_12 0 01 1201 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000

virrad_11_12  1201  0 dc 900
**********Third Column**********
xcell_01_22 0 01 2201 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000

virrad_01_22  2201  0 dc 900

**********Fourth Column**********
xcell_01_32 0 01 3201 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000


virrad_01_32  3201  0 dc 900

**********Five Column**********
xcell_01_42 0 01 4201 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000

virrad_01_42  4201  0 dc 900

**********Six Column**********
xcell_01_52 0 01 5201 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000

virrad_01_52  5201  0 dc 900

**********Seven Column**********
xcell_01_62 0 01 6201 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000


virrad_01_62  6201  0 dc 900

**********Eight Column**********
xcell_01_72 0 01 7201 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000

virrad_01_72  7201  0 dc 900

**********Nine Column**********
xcell_01_82 0 01 8201 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000

virrad_01_82  8201  0 dc 1000

**********Ten Column**********
xcell_01_92 0 01 9201 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000

virrad_01_92  9201  0 dc 1000




vbias 01 0 dc 0


.plot dc i(vbias)

.dc vbias 0 1.05 0.01
.probe
.end
